US04408057
A stirred solution of 0.54 g (0.003 mole) of 4-(2-thienyl)-2-indanol and 0.25 g (0.003 mole) of pyridine in 15 mL of toluene was cooled to 5° C., and 0.65 g (0.003 mole) of cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarbonyl chloride in 5 mL of toluene was added dropwise. Upon complete addition, the reaction mixture was allowed to warm to ambient temperature where it was stirred for 16 hours. The reaction mixture was filtered, and the filtrate concentrated under reduced pressure to give an oil residue. The oil was subjected to column chromatography on silica gel, eluting with 100% hexane then 1% ethyl acetate-hexane. The appropriate fractions were combined and concentrated under reduced pressure to give 0.57 g of 4-(2-thienyl)-2-indanyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate as an oil.

reactant | 4-(2-thienyl)-2-indanol | 0.003 mole, 0.54 g | S1C(=CC=C1)C1=C2CC(CC2=CC=C1)O | C13H12OS
reactant | pyridine | 0.003 mole, 0.25 g | N1=CC=CC=C1 | C5H5N
reactant | cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.003 mole, 0.65 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)C(F)(F)F | C9H9Cl2F3O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-thienyl)-2-indanyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | 0.57 g | ClC(=C[C@H]1C([C@H]1C(=O)OC1CC2=CC=CC(=C2C1)C=1SC=CC1)(C)C)C(F)(F)F | C22H20ClF3O2S
